US04954518
To 70 ml of methylene chloride was added 3.46 g of 3-amino-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one. Further, 870 mg of pyridine was added thereto. The mixture was ice-cooled. To this solution was dropwise added a solution of 1.04 g of methyl chlorocarbonate dissolved in 30 ml of methylene chloride, in 10 minutes. The mixture was then stirred for 30 minutes at 20°-25° C. 50 ml of water was added thereto. The resulting mixture was adjusted to pH 4 with 4N hydrochloric acid. The organic layer was separated, washed with water and a saturated aqueous sodium chloride solution in this order, and dried with anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The resulting crystal was recrystallized from acetonitrile to obtain 2.95 g (yield: 73%) of 3-methoxycarbonylamino-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one having a melting point of 233°-235° C.

reactant | 3-amino-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one | 3.46 g | NC1=COC2=C(C1=O)C=C(C(=C2)NS(=O)(=O)C)OC2=CC=CC=C2 | C16H14N2O5S
reactant | pyridine | 870 mg | N1=CC=CC=C1 | C5H5N
reactant | methyl chlorocarbonate | 1.04 g | C(OC)(=O)Cl | C2H3ClO2
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
solvent | water | 50 ml | O | H2O
product | 3-methoxycarbonylamino-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one | 2.95 g, yield: 73% | COC(=O)NC1=COC2=C(C1=O)C=C(C(=C2)NS(=O)(=O)C)OC2=CC=CC=C2 | C18H16N2O7S
